US04051248
1-Phenyl-8-[(trans-1,2,3,4-tetrahydro-1-hydroxy-2-naphthalenyl)methyl]-1,3,8-triazaspiro[4.5]-decan-4-one, hydrochloride (1:1)
1-Phenyl-8-[(trans-1,2,3,4-tetrahydro-1-hydroxy-2-naphthalenyl)methyl]-1,3,8-triazaspiro[4.5]decan-4-one (3.7 g) is suspended in absolute ethanol (100 ml) and treated with 1.2 equivalents of ethereal hydrogen chloride. The resulting mixture is then digested on a steam bath for 10 minutes, cooled in an ice-bath, and filtered to yield 3.7 g of the title compound, melting point 248°-249° C.

reactant | 1-Phenyl-8-[(trans-1,2,3,4-tetrahydro-1-hydroxy-2-naphthalenyl)methyl]-1,3,8-triazaspiro[4.5]decan-4-one | 3.7 g | C1(=CC=CC=C1)N1CNC(C12CCN(CC2)C[C@H]2[C@@H](C1=CC=CC=C1CC2)O)=O | C24H29N3O2
reactant | hydrogen chloride | 1.2 equivalents | Cl | ClH
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 1-Phenyl-8-[(trans-1,2,3,4-tetrahydro-1-hydroxy-2-naphthalenyl)methyl]-1,3,8-triazaspiro[4.5]-decan-4-one, hydrochloride | 3.7 g | Cl.C1(=CC=CC=C1)N1CNC(C12CCN(CC2)C[C@H]2[C@@H](C1=CC=CC=C1CC2)O)=O | InChI=1S/C24H29N3O2.ClH/c28-22-19(11-10-18-6-4-5-9-21(18)22)16-26-14-12-24(13-15-26)23(29)25-17-27(24)20-7-2-1-3-8-20;/h1-9,19,22,28H,10-17H2,(H,25,29);1H/t19-,22-;/m0./s1
